US07704995B2
To a solution of 3-amino-6-(3-{[(1R)-2,3-dihydro-1H-inden-1-ylamino]carbonyl}phenyl)pyrazine-2-carboxylic acid (409 mg, 1.09 mmol) were added azepan-3-amine (125 mg, 1.09 mmol), EDCI (252 mg, 1.31 mmol), HOBt (178 mg, 1.31 mmol) at ambient temperature. After being stirred for 2 h, the reaction mixture was quenched by addition of aqueous sodium bicarbonate followed by extraction with ethyl acetate (20 mL×3). The aqueous phase was extracted once with additional ethyl acetate. The combined organic layers were washed with saturated aqueous sodium chloride then dried over anhydrous magnesium sulfate. Filtration and concentration in vacuo gave a crude oil, which was purified by preparative HPLC to yield the 3-amino-N-azepan-3-yl-6-(3-{[(1S)-2,3-dihydro-1H-inden-1-ylamino]carbonyl}phenyl)pyrazine-2-carboxamide (22 mg, 4.2% yield): 1H NMR (400 MHz, CD3OD): δ 8.70 (m, 1H), 8.67 (m, 1H), 8.27 (m, 1H) 7.97 (m, 1H), 7.62 (t, 1H), 7.25 (m, 4H), 5.70 (m, 1H), 4.99 (m, 1H), 4.43 (m, 1H), 3.46 (m, 2H), 3.38 (m, 1H), 3.15 (m, 2H), 2.94 (m, 1H), 2.61 (m, 1H), 2.17 (m, 2H), 1.95 (m, 4H), 1.62 (m, 1H); MS (EI) for C27H30N6O2: 471.32 (MH+).

reactant | 3-amino-6-(3-{[(1R)-2,3-dihydro-1H-inden-1-ylamino]carbonyl}phenyl)pyrazine-2-carboxylic acid | 1.09 mmol, 409 mg | NC=1C(=NC(=CN1)C1=CC(=CC=C1)C(=O)N[C@@H]1CCC2=CC=CC=C12)C(=O)O | C21H18N4O3
reactant | azepan-3-amine | 1.09 mmol, 125 mg | N1CC(CCCC1)N | C6H14N2
reactant | EDCI | 1.31 mmol, 252 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.31 mmol, 178 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
product | 3-amino-N-azepan-3-yl-6-(3-{[(1S)-2,3-dihydro-1H-inden-1-ylamino]carbonyl}phenyl)pyrazine-2-carboxamide | 22 mg, 4.2% yield | NC=1C(=NC(=CN1)C1=CC(=CC=C1)C(=O)N[C@H]1CCC2=CC=CC=C12)C(=O)NC1CNCCCC1 | C27H30N6O2
